US08106064B2
To a stirred solution of 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-pyridine 1-oxide (11.2 g, 44 mmol) in dichloromethane (100 ml) at room temperature, was added trimethylsilyl cyanide (7.1 ml, 53.2 mmol). After 15 min., dimethylcarbamyl chloride (4.8 ml, 53.2 mmol) was added and the stirring was continued for 24 hr. The mixture was then cooled in an ice bath and saturated aqueous sodium bicarbonate solution (100 ml) was added. After 1 hr., organic layer was separated, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, ether:hexane (1:1)) to afford 8.8 g (76%) of 4-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridine-2-carbonitrile as a white solid. 1H NMR (200 MHz, CDCl3) δ 0.11 (6H, s), 0.94 (9H, s), (3H, s), 2.52 (3H, s), 4.67 (2H, s), 6.97 (1H, d, J=6.7 Hz), 7.08 (1H, s), 8.10 (1H, d, J=6.7 Hz).

reactant | 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-pyridine 1-oxide | 44 mmol, 11.2 g | C(C)(C)(C)[SiH2]OC(C1=CC(=[N+](C=C1)[O-])C)(C)C | C13H23NO2Si
reactant | trimethylsilyl cyanide | 53.2 mmol, 7.1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamyl chloride | 53.2 mmol, 4.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridine-2-carbonitrile | 8.8 g, 76% | C(C)(C)(C)[SiH2]OC(C1=CC(=NC(=C1)C)C#N)(C)C | C14H22N2OSi
